* D:\Disco D\universita\magistrale\progettazione-low-power\progetti\progetto-2\ltspice\models\standard\hold\transient\hold.asc
M3 Qneg Q 0 0 EECMOSN1 l=0.12u w=0.48u
M4 VDD Q Qneg VDD EECMOSP1 l=0.12u w=0.12u
Vdd VDD 0 1
M5 Q Qneg 0 0 EECMOSN1 l=0.12u w=0.12u
M6 VDD Qneg Q VDD EECMOSP1 l=0.12u w=0.12u
M7 Q WL BL 0 EECMOSN1 l=0.12u w=0.12u
M8 BLneg WL Qneg 0 EECMOSN1 l=0.12u w=0.12u
Vblneg BLneg 0 1
Vbl BL 0 1
Vwl WL 0 0
Vsweep Qneg 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\giorg\AppData\Local\LTspice\lib\cmp\standard.mos
* Transient Simulation setup to get the i_leak of an SRAM cell.
.lib "D:\Disco D\universita\magistrale\progettazione-low-power\progetti\progetto-2\ltspice\utils\utils-montecarlo-experiments\RIT_Models_For_LTSPICE_MonteCarlo.txt"
.dc Vsweep 0 1 0.01
.step param run 1 400 1
.backanno
.end
